US09210927B2
Preparation of (E)-4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-N-(1,1-dioxidothietan-3-yl)-2-fluorobenzamide (AC83)
To a stirred solution of (E)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-fluoro-N-(thietan-3-yl)benzamide (100 mg, 0.2159 mmol) in acetone/water (1:1, 5.0 mL) was added oxone (266 mg, 0.4319 mmol) and the resultant reaction mixture was stirred at ambient temperature for 4 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The combined ethyl acetate layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; eluting with 30% ethyl acetate/pet ether) afforded the title compound as an off white solid (70.0 mg, 66%): 1H NMR (400 MHz, CDCl3) δ 8.07 (t, J=8.4 Hz, 1H), 7.39 (t, J=1.6 Hz, 1H), 7.31 (d, J=1.2 Hz, 1H), 7.26 (m, 2H), 7.23 (m, 2H), 7.19 (d, J=1.6 Hz, 1H), 6.60 (d, J=16.8 Hz, 1H), 6.49 (dd, J=16.8, 7.6 Hz, 1H), 4.90 (m, 1H), 4.64 (m, 2H), 4.14 (m, 2H); ESIMS m/z 493.83 ([M−H]−); IR (thin film) 1527, 1113, 801, 1167, 1321 cm−1.

reactant | (E)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-fluoro-N-(thietan-3-yl)benzamide | 0.2159 mmol, 100 mg | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC(=C(C(=O)NC2CSC2)C=C1)F)C(F)(F)F | C20H15Cl2F4NOS
reactant | oxone | 0.4319 mmol, 266 mg | OOS(=O)[O-].[K+]
solvent | acetone water | 5.0 mL | CC(=O)C.O
solvent | water | O | H2O
product | (E)-4-(3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-N-(1,1-dioxidothietan-3-yl)-2-fluorobenzamide | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC(=C(C(=O)NC2CS(C2)(=O)=O)C=C1)F)C(F)(F)F | C20H15Cl2F4NO3S
